* eeschema netlist version 1.1 (spice format) creation date: mon jun  8 12:02:52 2015

.include NPN.lib
v1 6 0  dc 10
v2 2 0  ac 0.5
r1  3 2 50
r2  6 8 200k
c1  3 8 40u
r3  8 0 50k
r6  4 0 1k
c2  0 5 100u
c3  4 7 40u
r5  6 7 2k
r4  5 0 1.5k
q1 7 8 5 Q2N2222
.ac dec 100 100Hz 10KHz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
